US08461083B2
Preparation of 8-oxa-bicyclo[3.2.1]oct-6-ene-2,4-dione
To a stirred suspension of 3-chloro-8-oxa-bicyclo[3.2.1]oct-6-ene-2,4-dione (6.44 g) in aqueous hydrochloric acid (35 ml, 2M) was added zinc powder (4.88 g) in portions maintaining the reaction temperature below 25° C. by cooling with an icebath. After 45 minutes, the mixture was filtered through a bed of celite then extracted with ethyl acetate. the extract was dried over magnesium sulfate, filtered and evaporated under reduced pressure to afford the required product. 1H NMR (d6-DMSO) δ: 6.50 (2H, s), 5.18 (2H, s), 4.15 (1H, d), 3.34 (1H, d).

reactant | 3-chloro-8-oxa-bicyclo[3.2.1]oct-6-ene-2,4-dione | 6.44 g | ClC1C(C2C=CC(C1=O)O2)=O | C7H5ClO3
solvent | hydrochloric acid | 2M, 35 ml | Cl | ClH
catalyst | zinc | 4.88 g | [Zn] | Zn
product | 8-oxa-bicyclo[3.2.1]oct-6-ene-2,4-dione | C12C(CC(C(C=C1)O2)=O)=O | C7H6O3
